US05364866
To a flask charged with sodium borohydride (1.5 g, 0.0394 mol) under nitrogen and chilled to 10° was added, slowly, a solution of 1-[4-(3-chloropropoxy)-3-hydroxyphenyl]ethanone (6.0 g, 0.0262 mol) dissolved in ethanol-tetrahydrofuran (120 ml, 2:1). After total addition, the ice bath was removed and the reaction was stirred at ambient temperature for 3 hours. An additional amount of sodium borohydride (0.2 g, 0.0053 mol) was carefully added. After stirring at ambient temperature for one hour, the solvent was removed in vacuo. The resultant solid residue was diluted with water (100 ml) and left overnight. The product was isolated by vacuum filtration yielding 3.8 g. Two consecutive recrystallizations from toluene provided 3.3 g (55%) of 4-(3-chloropropoxy)-3-hydroxy-α-methylbenzene methanol as a light brown solid, m.p.=107°-109° C.

reactant | sodium borohydride | 0.0394 mol, 1.5 g | [BH4-].[Na+]
reactant | 1-[4-(3-chloropropoxy)-3-hydroxyphenyl]ethanone | 0.0262 mol, 6.0 g | ClCCCOC1=C(C=C(C=C1)C(C)=O)O | C11H13ClO3
reactant | sodium borohydride | 0.0053 mol, 0.2 g | [BH4-].[Na+]
solvent | ethanol tetrahydrofuran | 120 ml | C(C)O.O1CCCC1
product | 4-(3-chloropropoxy)-3-hydroxy-α-methylbenzene methanol | 3.3 g, 55% | ClCCCOC1=C(C=C(C=C1)C(O)C)O | C11H15ClO3
